US04279918
2-(4-chlorobenzyl)-1-[4-(4-fluorophenyl)-4-hydroxybutyl]pyrrolidine
Stir 0.8 g of 2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine at room temperature for 3 hours with 0.5 g of sodium borohydride in 8 ml of methanol/2 ml of water. Concentrate the resulting reaction mixture and then take up the concentrate with water/diethyl ether. Dry the ethereal phase over sodium sulfate and distil off the solvent to obtain the title compound as light-brown viscous oil.

reactant | 2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine | 0.8 g | ClC1=CC=C(CC2N(CCC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | C21H23ClFNO
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 8 ml | CO | CH4O
product | 2-(4-chlorobenzyl)-1-[4-(4-fluorophenyl)-4-hydroxybutyl]pyrrolidine | ClC1=CC=C(CC2N(CCC2)CCCC(O)C2=CC=C(C=C2)F)C=C1 | C21H25ClFNO
